US07189738B2
4-[2-(4-{[(5-Chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxamide
At room temperature, 0.18 ml of trimethylsilyl isocyanate are added dropwise to a suspension of 50 mg (0.12 mmol) of 5-chloro-N-{1,3-dioxo-2-[2-(4-piperidinyl)ethyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide in 2.5 ml of absolute dichloromethane. The mixture is stirred at room temperature for 48 h and then, after concentration, chromatographed on silica gel (dichloromethane/methanol 97:3).

reactant | trimethylsilyl isocyanate | 0.18 ml | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | 5-chloro-N-{1,3-dioxo-2-[2-(4-piperidinyl)ethyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide | 0.12 mmol, 50 mg | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CCC1CCNCC1)=O | C20H20ClN3O3S
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | 4-[2-(4-{[(5-Chloro-2-thienyl)carbonyl]amino}-1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-piperidinecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CCC1CCN(CC1)C(=O)N)=O | C21H21ClN4O4S
